US06852726B2
Using the procedure described in Tetrahedron Letters 31(38), 5507-08, [5-cloro-2-(2-hydroxy-ethyl)-3-methanesulfonyl-indol-1-yl]-acetonitrile (0.312 g, 1 mmole) was vigorously stirred in methylene chloride (4 ml) containing tetrafluoroboric acid (0.087 g, 1 mmole) while 0.5 ml of a 2N solution of TMSCHN2 in hexane was added dropwise at 0° C. over a 5 minute period. Three more portions of TMSCHN2 were added (0.25 ml each) similarly at 20 minute intervals. The solution was stirred for 30 minutes beyond the addition process at 0° C., poured into water, washed once with water, dried over magnesium sulfate, filtered and evaporated to dryness. The residue was purified by column chromatography (silica gel) using 1:1 hexane:ethyl acetate as the eluting solvent to afford [5-chloro-3-methanesulfonyl-2-(2-methoxy-ethyl)-indol-1-yl]-acetonitrile (0.138 g, 42% yield) as well as recovered starting material (0.160 g).

reactant | [5-cloro-2-(2-hydroxy-ethyl)-3-methanesulfonyl-indol-1-yl]-acetonitrile | 1 mmole, 0.312 g | ClC=1C=C2C(=C(N(C2=CC1)CC#N)CCO)S(=O)(=O)C | C13H13ClN2O3S
reactant | tetrafluoroboric acid | 1 mmole, 0.087 g | F[B-](F)(F)F.[H+]
reactant | TMSCHN2 | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | water | O | H2O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [5-chloro-3-methanesulfonyl-2-(2-methoxy-ethyl)-indol-1-yl]-acetonitrile | 0.138 g, 42% yield | ClC=1C=C2C(=C(N(C2=CC1)CC#N)CCOC)S(=O)(=O)C | C14H15ClN2O3S
